US06576797B1
2-Hydroxy-4-dodecyloxy-4′-chlorobenzophenone
A mixture of 20 g (80 mmol) of 2,4-dihydroxy-4′-chlorobenzophenone, 21.9 g (88 mmol) of 1-bromododecane and 8.4 g (100 mmol) of sodium hydrogen carbonate is heated in 77.6 g of sec-butanol and 25.6 g of water and refluxed for 20 hours. The reaction mixture is then stirred for 15 minutes in the presence of 0.8 g of active carbon and filtered while warm. The product crystallizes upon cooling. After recrystallization from sec-butanol, 21.5 g of pale yellow crystals are obtained having a melting point of 61-63° C.

reactant | 2,4-dihydroxy-4′-chlorobenzophenone | 80 mmol, 20 g | OC1=C(C(=O)C2=CC=C(C=C2)Cl)C=CC(=C1)O | C13H9ClO3
reactant | 1-bromododecane | 88 mmol, 21.9 g | BrCCCCCCCCCCCC | C12H25Br
reactant | sodium hydrogen carbonate | 100 mmol, 8.4 g | C(O)([O-])=O.[Na+]
reactant | water | 25.6 g | O | H2O
solvent | sec-butanol | 77.6 g | C(C)(CC)O | C4H10O
product | 2-Hydroxy-4-dodecyloxy-4′-chlorobenzophenone | OC1=C(C(=O)C2=CC=C(C=C2)Cl)C=CC(=C1)OCCCCCCCCCCCC | C25H33ClO3
